US05578593
N-[1(R)-[(2,3-dihydrospiro[1H-indene-1,4'-piperidin]-1'-yl)carbonyl]-2-(phenylmethyloxy)ethyl]-2-(2-(R)-hydroxypropyl)amino-2-methylpropanamide hydrochloride
To a solution of 20 mg of N-[1(R)-[(2,3-dihydrospiro[1H-indene-1,4'-piperidin]-1'-yl)carbonyl]-2-(phenylmethyloxy)ethyl]-2-(2-(R)-hydroxypropyl)amino-2-methylpropanamide (0.04 mmoles) in 1 mL of HOAc was added 0.01 mL of conc. HCl (0.12 mmoles), and the solution lyophyllized over night to give the title compound. Calc. for C30H41N3O4 +HCl:MW=507.7+HCl; found m/e=(m+1) 509.4.

reactant | N-[1(R)-[(2,3-dihydrospiro[1H-indene-1,4'-piperidin]-1'-yl)carbonyl]-2-(phenylmethyloxy)ethyl]-2-(2-(R)-hydroxypropyl)amino-2-methylpropanamide | 0.04 mmoles, 20 mg | N1(CCC2(CC1)CCC1=CC=CC=C12)C(=O)[C@@H](COCC1=CC=CC=C1)NC(C(C)(C)NC[C@@H](C)O)=O | C30H41N3O4
reactant | HCl | 0.12 mmoles, 0.01 mL | Cl | ClH
solvent | HOAc | 1 mL | CC(=O)O | C2H4O2
product | N-[1(R)-[(2,3-dihydrospiro[1H-indene-1,4'-piperidin]-1'-yl)carbonyl]-2-(phenylmethyloxy)ethyl]-2-(2-(R)-hydroxypropyl)amino-2-methylpropanamide hydrochloride | Cl.N1(CCC2(CC1)CCC1=CC=CC=C12)C(=O)[C@@H](COCC1=CC=CC=C1)NC(C(C)(C)NC[C@@H](C)O)=O | InChI=1S/C30H41N3O4.ClH/c1-22(34)19-31-29(2,3)28(36)32-26(21-37-20-23-9-5-4-6-10-23)27(35)33-17-15-30(16-18-33)14-13-24-11-7-8-12-25(24)30;/h4-12,22,26,31,34H,13-21H2,1-3H3,(H,32,36);1H/t22-,26-;/m1./s1
